US06528510B1
(2-Bromo-5-fluoro-phenyl)-methanol
2-Bromo-5-fluorobenzylbromide (2.0 g, 7.46 mmol) was dissolved in dioxane (25 mL) and H2O (25 mL), and CaCO3 (3.84 g, 38.39 mmol) was added. The mixture was heated to reflux overnight. The solution was concentrated, and the residue was partitioned between H2O and CH2Cl2. The organic phase was washed with 1N HCl and brine, dried (MgSO4), filtered, and concentrated to afford the title compound. 1H NMR (CDCl3): δ2.00 (t, 1 H), 4.72 (d, 2 H), 6.85-6.92 (m, 1 H), 7.26 (dd, 1 H), 7.48 (dd, 1 H).

reactant | 2-Bromo-5-fluorobenzylbromide | 7.46 mmol, 2.0 g | BrC1=C(CBr)C=C(C=C1)F | C7H5Br2F
reactant | CaCO3 | 38.39 mmol, 3.84 g | C(=O)([O-])[O-].[Ca+2]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 25 mL | O | H2O
product | (2-Bromo-5-fluoro-phenyl)-methanol | BrC1=C(C=C(C=C1)F)CO | C7H6BrFO
